US06489354B1
1-(1-Naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-(1,3-dioxolan-2-yl)pyrrolidine
A solution of 0.046 g (0.104 mmol) of 1-benzyl-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-formylpyrrolidine, 0.058 mL (1.04 mmol) of ethyleneglycol and 0.047 g (0.25 mmol) of TsOH.H2O in 5 mL of benzene was heated at reflux for 2 h. The reaction mixture was cooled to rt and diluted with ether. The reaction mixture was washed twice with sat'd NaHCO3 solution, dried over Na2SO4, filtered and the filtrate was concentrated. The residue was purified by chromatography (silica, MeOH:CH2Cl2, 5:95) to give the title compound.

reactant | 1-benzyl-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-formylpyrrolidine | 0.104 mmol, 0.046 g | C(C1=CC=CC=C1)N1CC(C(C1)C=O)CN1CCC(CC1)C1=CC=C(C=C1)F | C24H29FN2O
reactant | ethyleneglycol | 1.04 mmol, 0.058 mL | C(CO)O | C2H6O2
reactant | TsOH.H2O | 0.25 mmol, 0.047 g | CC=1C=CC(=CC1)S(=O)(=O)O.O
solvent | benzene | 5 mL | C1=CC=CC=C1 | C6H6
solvent | ether | CCOCC | C4H10O
product | 1-(1-Naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-(1,3-dioxolan-2-yl)pyrrolidine | C1(=CC=CC2=CC=CC=C12)C(=O)N1CC(C(C1)C1OCCO1)CN1CCC(CC1)C1=CC=C(C=C1)F | C30H33FN2O3
